US06706731B2
80 g (322 mmol) of an (E/Z) mixture of 4-[2-(pyridin-3-yl)-vinyl-2H-isoquinolin-1-one in 3100 ml of methanol/THF 1:1 are hydrogenated in the presence of 15.2 g of Pd/C (10%). Filtration and concentration by evaporation yield the crude product. Recrystallisation by dissolving in 650 ml of boiling ethanol, hot filtration, cooling and addition of 1 l of diethylether and 0.2 l of hexane yield colourless 4-[2-(pyridin-3-yl)-ethyl]-2H-isochinolin-1-one; m.p.187-188° C.

reactant | 2-(pyridin-3-yl)-vinyl-2H-isoquinolin-1-one | N1=CC(=CC=C1)C=CN1C(C2=CC=CC=C2C=C1)=O | C16H12N2O
solvent | methanol THF | 3100 ml | CO.C1CCOC1
catalyst | Pd/C | 15.2 g | [Pd] | Pd
product | 4-[2-(pyridin-3-yl)-ethyl]-2H-isochinolin-1-one | N1=CC(=CC=C1)CCC1=CNC(C2=CC=CC=C12)=O | C16H14N2O
